US04772600
2-[2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridin-1-yl]-1-phenylethanone
Under nitrogen atmosphere, the 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine (5.0 g, 0.022 mole) was added to a suspension of sodium hydride (0.96 g of 60% in oil, 0.024 mole, washed once with hexanes) in dimethylformamide (100 ml). The mixture was heated at 70°-85° C. for 1.5 hr before adding the α-bromoacetophenone (4.38 g, 0.022 mole) at room temperature. The reaction mixture was stirred at room temperature overnight, then poured into water. The precipitate was collected by filtration, washed with water, and dried under high vacuum. A sample was dissolved in isopropyl alcohol, then concentrated to initiate crystallization. The crystals were collected by filtration, washed with isopropyl alcohol, and dried under high vacuum at 70° C. over a weekend to give 1.5 g (20%) of title compound, mp. 262°-263° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine | 0.022 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
reactant | sodium hydride | [H-].[Na+]
reactant | α-bromoacetophenone | 0.022 mole, 4.38 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | water | O | H2O
product | 2-[2-(4-Chlorophenyl)-1H-imidazo[4,5-b]pyridin-1-yl]-1-phenylethanone | 1.5 g, 20% | ClC1=CC=C(C=C1)C=1N(C=2C(=NC=CC2)N1)CC(=O)C1=CC=CC=C1 | C20H14ClN3O
